US06458998B1
7-(fluoren-9-yloxycarbonylamino)naphthalene-2-carboxylic acid (107)
To 0.504 g (2.70 mmol) of 7-aminonaphthalene-2-carboxylic acid (106; prepared according to the procedure in Harrison, H. A. and Royle, F. A. J. Chem. Soc., 1926, 84) was added 10 mL of dioxane, 5 mL of 10% sodium carbonate, and 35 mL of water. To this clear solution was added 0.786 g (2.97 mmol) of 9-fluorenylmethyl chloroformate, portionwise, over 15 minutes. After 3 hours, the reaction was acidified with 1N HCl and the resulting white precipitate was collected by vacuum filtration. This solid was suspended in diethyl ether and stirred to give a fine precipitate that was collected by vacuum filtration. This provided 0.948 g of compound 107.

reactant | 7-aminonaphthalene-2-carboxylic acid | 2.70 mmol, 0.504 g | NC1=CC=C2C=CC(=CC2=C1)C(=O)O | C11H9NO2
reactant | sodium carbonate | 5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9-fluorenylmethyl chloroformate | 2.97 mmol, 0.786 g | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | HCl | 1N | Cl | ClH
solvent | water | 35 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 7-(fluoren-9-yloxycarbonylamino)naphthalene-2-carboxylic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)OC(=O)NC1=CC=C2C=CC(=CC2=C1)C(=O)O | C25H17NO4
